US06451810B1
According to the general method of Example 14, 1-(4-aminobutyl)-1H-imidazo[4,5-c]quinolin-4-amine and 2-ethoxy-1-naphthoyl chloride were combined to provide N1-[4-(4-amino-1H-imidazo[4,5-c]quinolin-1-yl)butyl]-2-ethoxy-1-naphthamide as a white powder, m.p. 219° C. (decomposition). 1H NMR (300 MHz, DMSO-d6) δ8.33 (t, J=5.8 Hz, 1H), 8.22 (s, 1H), 8.09 (d, J=8.0 Hz, 1H), 7.91 (d, J=8.7 Hz, 1H), 7.87-7.84 (m, 1H), 7.64-7.56 (m, 2H), 7.47-7.22 (m, 5H), 6.60 (s, 2H), 4.69 (t, J=7.2 Hz, 2H), 4.09 (q, J=7.2 Hz, 2H), 3.37 (m, 2H), 2.01 (m, 2H), 1.64 (m, 2H), 1.18 (t, J=7.2 Hz, 3H); MS (EI) m/e 453.2157 (453.2165 calcd for C27H27N5O2).

reactant | 1-(4-aminobutyl)-1H-imidazo[4,5-c]quinolin-4-amine | NCCCCN1C=NC=2C(=NC=3C=CC=CC3C21)N | C14H17N5
reactant | 2-ethoxy-1-naphthoyl chloride | C(C)OC1=C(C2=CC=CC=C2C=C1)C(=O)Cl | C13H11ClO2
product | N1-[4-(4-amino-1H-imidazo[4,5-c]quinolin-1-yl)butyl]-2-ethoxy-1-naphthamide | NC1=NC=2C=CC=CC2C2=C1N=CN2CCCCNC(=O)C2=C(C=CC1=CC=CC=C21)OCC | C27H27N5O2
